US05679791
Preparation of N-{5-[3-Allylhexahydro-2,4,6-trioxo-5-(2-propynyl)-s-triazin-1-yl]-4-chloro-2-fluorophenyl}-1-cyclohexene-1,2-dicarboximide
Propargyl bromide (0.37 mL, 3.36 mmol) is added to a mixture of N-[5-(3-allylhexahydro-2,4,6-trioxo-s-triazin-1-yl)-4-chloro-2-fluorophenyl]-1-cyclohexene-1,2-dicarboximide (1.00 g, 2.24 mmol), and potassium carbonate (0.62 g, 4.48 mmol) in N,N-dimethylformamide. The reaction mixture is stirred for 7 hours, and poured into ethyl acetate. The organic solution is washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a yellow oil. Flash column chromatography of the oil using silica gel and an ethyl acetate/hexanes (1:4) solution gives the title product as a white solid (0.60 g, mp 107°-114° C.).

reactant | Propargyl bromide | 3.36 mmol, 0.37 mL | C(C#C)Br | C3H3Br
reactant | N-[5-(3-allylhexahydro-2,4,6-trioxo-s-triazin-1-yl)-4-chloro-2-fluorophenyl]-1-cyclohexene-1,2-dicarboximide | 2.24 mmol, 1.00 g | C(C=C)N1C(N(C(NC1=O)=O)C=1C(=CC(=C(C1)N1C(=O)C2=C(CCCC2)C1=O)F)Cl)=O | C20H16ClFN4O5
reactant | potassium carbonate | 4.48 mmol, 0.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-{5-[3-Allylhexahydro-2,4,6-trioxo-5-(2-propynyl)-s-triazin-1-yl]-4-chloro-2-fluorophenyl}-1-cyclohexene-1,2-dicarboximide | 0.60 g | C(C=C)N1C(N(C(N(C1=O)CC#C)=O)C=1C(=CC(=C(C1)N1C(=O)C2=C(CCCC2)C1=O)F)Cl)=O | C23H18ClFN4O5
